US07414049B2
b) (S)-3-Amino-5-(4,4,4-trifluoro-butyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride
In an analogous procedure to that described in Example 1d), the treatment of the [(S)-4-oxo-1-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded the title compound as a light yellow solid; MS (m/e): 288 (M+H)+.

reactant | [(S)-4-oxo-1-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N(C1)CCCC(F)(F)F)C=CC=C2)=O)=O | C18H24F3N3O3
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(4,4,4-trifluoro-butyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride | Cl.N[C@H]1CN(C2=C(NC1=O)C=CC=C2)CCCC(F)(F)F | InChI=1S/C13H16F3N3O.ClH/c14-13(15,16)6-3-7-19-8-9(17)12(20)18-10-4-1-2-5-11(10)19;/h1-2,4-5,9H,3,6-8,17H2,(H,18,20);1H/t9-;/m0./s1
